US07625901B2
Step A. 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]propanamide
To a solution of (R)-2-phenylglycinol (1.00 g, 7.3 mmol) and triethylamine (1.02 mL, 7.3 mmol) in CH2Cl2 (50 mL) at 0° C. was slowly added 2-chloropropionyl chloride (0.72 mL, 7.3 mmol). After 20 min, the reaction mixture was quenched with saturated aqueous NaHCO3 (20 mL) and extracted with CH2Cl2 (2×50 mL). The combined organic extracts were washed with 10% citric acid, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=228 (M+1).

reactant | (R)-2-phenylglycinol | 7.3 mmol, 1.00 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | triethylamine | 7.3 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloropropionyl chloride | 7.3 mmol, 0.72 mL | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]propanamide | ClC(C(=O)N[C@@H](CO)C1=CC=CC=C1)C | C11H14ClNO2
